US05254595
Following the procedure of Example 33, but starting from 7-hydroxy-3-methylthiophene and epichlorohydrin in the presence of sodium hydroxide and contacting a solution of the obtained raw epoxide in absolute ethanol with a solution of 2-aminotetralin in absolute ethanol, N-(1,2,3,4-tetrahydronaphth-2-yl)-2-hydroxy-3-(3-methylbenzothien-7-yloxy)propanamine hydrochloride is obtained ((i): R=H, Ar=radical 28, wherein Z is methyl and the chain bridges position 7 of the Ar radical and position 2 of the tetralin moiety).

reactant | epichlorohydrin | C(Cl)C1CO1 | C3H5ClO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | N-(1,2,3,4-tetrahydronaphth-2-yl)-2-hydroxy-3-(3-methylbenzothien-7-yloxy)propanamine hydrochloride | Cl.C1C(CCC2=CC=CC=C12)NCC(COC1=CC=CC=2C(=CSC21)C)O
solvent | ethanol | C(C)O | C2H6O
product | 2-aminotetralin | NC1CC2=CC=CC=C2CC1 | C10H13N
